US07851471B2
(S)-3-Amino-1,2-propanediol (16.8 g, 184 mmol) was dissolved in MeOH (90 mL) at room temperature and the solution was diluted with MeCN (550 mL). NEt3 (30.5 mL, 219 mmol) was added and the reaction mixture was cooled to −10° C. Chloroacetyl chloride (22.2 g, 15.6 mL, 197 mmol) was added dropwise at −10° C. during 1.5 h under nitrogen. The temperature was maintained at −10° C. for an additional hour and then the reaction mixture was allowed to reach room temperature and stirred overnight (16 h). The solvents were removed in vacuo. The residue was purified by column chromatography (normal phase, Apollo Scientific silica, 40-60μ, 60 Å, gradient 1% to 10% MeOH in EtOAc). The combined fractions were evaporated to afford 2-chloro-N—[(S)-2,3-dihydroxypropyl]-acetamide (28.5 g, 92%) as a colourless oil which gave a white solid on standing.

reactant | (S)-3-Amino-1,2-propanediol | 184 mmol, 16.8 g | NC[C@@H](CO)O | C3H9NO2
reactant | NEt3 | 219 mmol, 30.5 mL | CCN(CC)CC | C6H15N
reactant | Chloroacetyl chloride | 197 mmol, 15.6 mL, 22.2 g | ClCC(=O)Cl | C2H2Cl2O
solvent | MeOH | 90 mL | CO | CH4O
solvent | MeCN | 550 mL | CC#N | C2H3N
product | 2-chloro-N—[(S)-2,3-dihydroxypropyl]-acetamide | 28.5 g, 92% | ClCC(=O)NC[C@@H](CO)O | C5H10ClNO3
